US09278972B2
Preparation of (1S,2S,3R,5S)-3-((5-amino-6-chloro-2-(propylthio)pyrimidin-4-yl)-amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLACINA)
A mixture of (1S,2S,3R,5S)-3-amino-5-(2-hydroxyethoxy)cyclopentane-1,2-diol (OLA; 1.06 g, 6 mmol), 4,6-dichloro-2-(propylthio)pyrimidin-5-amine (CLINA; 1.43 g, 6 mmol), triethylamine (1.09 g, 7.8 mmol) and polyethyleneglycol PEG400 (2 mL) was stirred for 48 h at 75° C. The reaction mixture was diluted with ethyl acetate (50 mL), washed with water (25 mL) and evaporated under reduced pressure to give a resinous material which solidified upon trituration in n-hexane (25 mL). After filtration there was obtained OLACINA as a grey powder (2.0 g, 88% yield): 13C NMR (DMSO-d6, 125 MHz) δ13.3, 22.8, 32.2, 34.7, 54.8, 60.4, 69.8, 72.4, 75.2, 82.4, 119.9, 137.5, 152.5, 155.1.

reactant | (1S,2S,3R,5S)-3-amino-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 6 mmol, 1.06 g | N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O | C7H15NO4
reactant | 4,6-dichloro-2-(propylthio)pyrimidin-5-amine | 6 mmol, 1.43 g | ClC1=NC(=NC(=C1N)Cl)SCCC | C7H9Cl2N3S
reactant | triethylamine | 7.8 mmol, 1.09 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 25 mL | CCCCCC | C6H14
product | (1S,2S,3R,5S)-3-((5-amino-6-chloro-2-(propylthio)pyrimidin-4-yl)-amino)-5-(2-hydroxyethoxy)cyclopentane-1,2-diol | 2.0 g, 88% yield | NC=1C(=NC(=NC1Cl)SCCC)N[C@H]1[C@@H]([C@@H]([C@H](C1)OCCO)O)O | C14H23ClN4O4S
